US06441004B1
Ethyl N-(4-chlorobenzyl)indole-2-carboxylate
Ethyl indole-2-carboxylate (0.5 g) was dissolved in DMF and sodium hydride (0.116 g) was added in a single portion. The reaction was stirred for 1 hour, then 4-chlorobenzyl chloride (0.468 g) was added dropwise. Stirring was continued for a further 2 hours and then the reaction was quenched by the addition of water. The reaction mixture was partitioned between water and ethyl acetate. Combined organic extracts were dried (MgSO4) and concentrated in vacuo and the residue purified by column chromatography using isohexane-5% ethyl acetate as eluent to give the desired end product as a white solid (0.61 g, 74%), mp 107-108°; NMR δ(CD3SOCD3) 1.25 (t, 3H), 4.3 (q, 2H), 5.8 (s, 2H), 7.1 (t, 1H), 7.3 (m, 4H), 7.55 (d, 1H), 7.7 (d, 1H); M/z (+) 314 (MH+).

reactant | Ethyl indole-2-carboxylate | 0.5 g | N1C(=CC2=CC=CC=C12)C(=O)OCC | C11H11NO2
reactant | sodium hydride | 0.116 g | [H-].[Na+]
reactant | 4-chlorobenzyl chloride | 0.468 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
solvent | DMF | CN(C)C=O | C3H7NO
product | Ethyl N-(4-chlorobenzyl)indole-2-carboxylate | 0.61 g, 74% | ClC1=CC=C(CN2C(=CC3=CC=CC=C23)C(=O)OCC)C=C1 | C18H16ClNO2
